US08835632B2
4.3.2.2 Synthesis of (1,3,3-trimethyl-2,3-dihydro-1H-indol-2-yl)acetonitrile
A 500-mL one-necked flask was equipped with a magnetic stir bar and a reflux condenser. 200 mL of methanol were added to the flask, sodium (3.0 g, 0.13 mole) was added to the methanol as small pieces (approximately 0.5 g). After the sodium dissolved, N-[(2Z)-2-(1,3,3-trimethyl-1,3-dihydro-2H-indol-2-ylidene)ethanethioyl]-benzamide (19.0 g, 0.056 mole) was added to the flask and the reaction mixture was heated at reflux with stirring for 2 hours. The reaction mixture was cooled to room temperature and the methanol was evaporated using a rotary evaporator. The residue was treated with 200 mL of water and extracted with dichloromethane (3×100 mL). Combined organic extracts were dried over magnesium sulfate and the solvent was evaporated on a rotary evaporator. The red solid was recrystallized from methanol-water (7:3) to give slightly red crystals. The yield was 4.5 g (40% of theory). Mp=74-76° C.

reactant | sodium | 0.13 mole, 3.0 g | [Na] | Na
reactant | N-[(2Z)-2-(1,3,3-trimethyl-1,3-dihydro-2H-indol-2-ylidene)ethanethioyl]-benzamide | 0.056 mole, 19.0 g | CN1\C(\C(C2=CC=CC=C12)(C)C)=C/C(=S)NC(C1=CC=CC=C1)=O | C20H20N2OS
solvent | methanol | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | (1,3,3-trimethyl-2,3-dihydro-1H-indol-2-yl)acetonitrile | CN1C(C(C2=CC=CC=C12)(C)C)CC#N | C13H16N2
